US04971982
17.47 g of 2-chloro-2-methylpent-1-yne were added to a mixture of 11.9 g of 4-cyanophenol, 6.0 g of sodium hydroxide, 15 ml of a 40% methanolic solution of benzyltrimethylammonium hydroxide in 85 ml of water and 85 ml of dichloromethane and stirred for 4 days. The organic phase was separated, washed with 2M sodium hydroxide solution, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:9) for the elution to give 10.1 g of 4-(1-ethyl-1-methyl-2-propynyloxy)benzonitrile.

reactant | 4-cyanophenol | 11.9 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 85 ml | O | H2O
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
product | 4-(1-ethyl-1-methyl-2-propynyloxy)benzonitrile | 10.1 g | C(C)C(C#C)(OC1=CC=C(C#N)C=C1)C | C13H13NO
